.SUBCKT NAND4X3H7R A B C D VDD VSS Y
*.PININFO A:I B:I C:I D:I Y:O VDD:B VSS:B
MMN4 net7 B net25 VSS nm1p2_svt_lp W=450n L=60n m=1
MMN5 net25 A VSS VSS nm1p2_svt_lp W=450n L=60n m=1
MMN3 net10 C net7 VSS nm1p2_svt_lp W=450n L=60n m=1
MMN0 Y D net10 VSS nm1p2_svt_lp W=450n L=60n m=1
MMP3 Y A VDD VDD pm1p2_svt_lp W=570n L=60n m=1
MMP2 Y D VDD VDD pm1p2_svt_lp W=570n L=60n m=1
MMP1 Y C VDD VDD pm1p2_svt_lp W=570n L=60n m=1
MMP0 Y B VDD VDD pm1p2_svt_lp W=570n L=60n m=1
.ENDS
